Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / meperidine / promethazine / codeine / secobarbital 
/ loratadine
 
Attending: ___.
 
Chief Complaint:
Right hip and lower back pain s/p recent EVAR. 

 
Major Surgical or Invasive Procedure:
None.   

 
History of Present Illness:
___ w/ PMHx notable for polymyositis arthralgias stable on MTX 
and low dose prednisone for many years recently s/p EVAR for 
infrarenal AAA and discharged on ___ now seen for complaints of 
right hip and back pain which has gotten progressively worse 
since discharge. Ms. ___ reports that she first developed 
the pain immediately postoperatively but that it was controlled 
w/ heating pads and lidocaine patches. Since discharge the pain 
has become unbearable, constant, and not improved w/ medications 
and/or patches to the point that her mobility is now affected. 
Given the persistence of these symptoms, she elected to seek 
medical evaluation.

 
Past Medical History:
PMH: infrarenal AAA s/p EVAR, CVA without deficits, RA, 
polymyositis, asthma, dyslipidemia, hypothyroidism

PSH: EVAR ___ 
 
Social History:
___
Family History:
Unremarkable for any aneurysmal disease. There is a family 
history of diabetes and cancer.

 
Physical Exam:
GEN: AOx3, NAD, tearful
CV: RRR
PULM: CTAB
GI: soft, no tenderness to palpation, non-distended, no palpable 
masses
EXT: WWP, no CCE, distal pulses palpable

PHYSICAL EXAM: 
Vital Signs: BP        HR          RR
GENERAL:
NEURO: Alert and oriented x 3  
NECK: Soft, supple. Carotids: 2+, no bruits or JVDPULM: Lungs 
clear
ABD:: Soft, non tender to superficial,deep, and palpation 
directly over the abdominal aorta.  bowel sounds x4.  
EXTREMITIES: Warm and well perfused.  The bilateral groin 
puncture sites from the ___ EVAR were well healed.  
Dermabond still present over the access sites.  No edema or 
ecchymosis.  No evidence of hematoma or pseudoaneurysms. 
No lower extremity ulceration. Pain was present with palpation 
over the greater trochanter of the right femur.  No obvious 
mass, erythema, ecchymosis.  No hip instability.
- Ext: Lower Extremity Pulse Exam:      
     Left  Femoral palp, DP palp., ___ palp.
     Right Femoral palp, DP palp., ___ palp.
 
Pertinent Results:
Recent Lab Data at Discharge: ___ - 
___ 06:24AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.0
___ 04:55AM BLOOD ALT-46* AST-47* CK(CPK)-291* AlkPhos-164* 
TotBili-0.4
___ 06:24AM BLOOD Glucose-105* UreaN-11 Creat-0.3* Na-136 
K-4.2 Cl-96 HCO3-23 AnGap-21*
___ 06:24AM BLOOD ___ PTT-28.9 ___
___ 06:24AM BLOOD Plt ___
___ 03:25AM BLOOD Neuts-75.6* Lymphs-7.1* Monos-13.5* 
Eos-2.0 Baso-0.7 Im ___ AbsNeut-8.00* AbsLymp-0.75* 
AbsMono-1.43* AbsEos-0.21 AbsBaso-0.07
___ 06:24AM BLOOD WBC-12.4* RBC-3.76* Hgb-12.5 Hct-37.6 
MCV-100* MCH-33.2* MCHC-33.2 RDW-13.7 RDWSD-49.9* Plt ___

 
Xray: ___:
Final Report 
EXAMINATION: Pelvis single view, right hip two views 
 - INDICATION:  ___ year old woman s/p EVAR now with new R hip 
pain  // eval for fracture or other pathology 
  
COMPARISON:  CT ___ 
  
FINDINGS:  
Aortoiliac endograft.  Residual contrast in the bladder.  Mild 
degenerative changes bilateral hips.  No fracture. 
  
IMPRESSION:  
No fracture 

CTA abdomen and pelvis ___:  
INDICATION:  History: ___ s/p endovascular repair of AAA one 
week ago  // CTA abdomen pelvis up to proximal thigh to evaluate 
for RP bleed or endovascular leak.
  
COMPARISON:  ___ 
  
FINDINGS:  
  
VASCULAR: 
The patient is status post aorto bi-iliac stent for a known 
infrarenal aortic aneurysm.  The stent is in appropriate 
position.  Multiple hyperdense foci surrounding the stent (for 
example ___ were present on the pre stent CTA from ___.  No evidence of endoleak.  The excluded aneurysm sac 
contains a small focus of gas, likely secondary to stent 
placement (___).  Moderate atherosclerotic calcification of the 
aorta and its branches. 
  
LOWER CHEST: Minimal atelectasis is noted in the lung bases. 
There is no 
pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. There is no evidence of focal lesions. There is mild 
intrahepatic and extrahepatic biliary dilatation, likely 
secondary to cholecystectomy. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: There are multiple subcentimeter hypodense lesions in 
bilateral 
kidneys, too small to characterize.  The kidneys are of normal 
and symmetric size with normal nephrogram. There is no evidence 
of stones, focal renal lesions, or hydronephrosis. There are no 
urothelial lesions in the kidneys or ureters. There is no 
perinephric abnormality. 
  
GASTROINTESTINAL:  Again seen is a large duodenal diverticulum.  
Small bowel loops demonstrate normal caliber, wall thickness and 
enhancement throughout.  Diverticulosis without evidence of 
diverticulitis.  The appendix is not visualized, but there are 
no secondary signs of appendicitis.  There is no evidence of 
mesenteric lymphadenopathy. 
  
RETROPERITONEUM: No retroperitoneal hemorrhage.  There is no 
evidence of 
retroperitoneal lymphadenopathy. 
  
PELVIS: The urinary bladder is mildly distended and contains a 
small volume of gas, possibly secondary to recent 
instrumentation.  The distal ureters are unremarkable.  There is 
no evidence of pelvic or inguinal lymphadenopathy.  There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Status post hysterectomy. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
1.  No retroperitoneal hemorrhage, as clinically questioned. 
2. Multiple hyperdense foci is surround the aorto bi-iliac 
stent, but were 
present on the pre stent CTA from ___, making 
endoleak less 
likely. 
3. Extensive diverticulosis without evidence of diverticulitis. 
  

 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital for pain management 
and evaluation of the right hip pain. There were no concerning 
radiologic, clinical exam or laboratory findings concerning for 
post-surgical complication that would explain her pain. She was 
evaluated by rheumatology who agreed that the pain was likely 
musculoskeletal in origin and recommended continued pain 
management, to include  Tylenol, tramadol and a lidocaine patch. 
No indication for any additional work up was deemed necessary, 
and that the patient should follow up with her primary 
rheumatologist. The established pain regimen gave the patient 
som with e relief and she was able to sleep through the night 
(one of her primary complaints), and ambulate with assistance of 
a walker. Pain persisted intermittently.  The chronic pain 
service was consulted and recommended we otain a hip MRI to 
further evaluate for bursitis, or other pathology such as 
avascular necrosis, abscess. This can be done in-patient or 
out-patient.  Patient and practitioner elected to obtain further 
imaging in the outpatient setting.  Injection of the grater 
trochanter ___ was discuss as an out-patient, as further 
discussion was required with her acting rheumatologist, Dr. 
___, as she is on chronic PO prednisone. 
The patient was prepared for discharge to a Rehabilitation 
Facility work with physical therapy secondary to postoperative 
deconditioning.  Addtonal recs of NSAID such as Ibuprofen 
400-600 mg TID PRN or a topical NSAID- diclofenac gel to be 
applied to affected areas BID PRN were given by pain management. 
  

Dr. ___ will follow-up as previously scheduled on ___ at 
___.  No additional imaging was needed for this time.  The 
patient was also scheduled to follow-up with her Rheumatologist, 
Dr, ___ on ___.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. alendronate 70 mg oral 1X/WEEK 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Methotrexate 10 mg PO 1X/WEEK (MO) 
6. Omeprazole 20 mg PO DAILY 
7. Pravastatin 10 mg PO QPM 
8. PredniSONE 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Lidocaine 5% Patch 1 PTCH TD QPM  
3.  Senna 17.2 mg PO HS  
4.  TraMADol 25 mg PO Q6H:PRN pain  
5.  Alendronate Sodium 70 mg PO QSUN  
6.  Aspirin 81 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID constipation 
Hold for loose stool  
8.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Levothyroxine Sodium 50 mcg PO DAILY  
11.  Methotrexate 10 mg PO 1X/WEEK (MO)  
12.  Omeprazole 20 mg PO DAILY  
13.  Pravastatin 10 mg PO QPM  
14.  PredniSONE 2.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Abdominal aortic aneurysm s/p endovascular abdominal aortic 
repair (EVAR) with acute right hip and back pain.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Division of Vascular Surgery for 
evaluation and treatment of back and right hip pain in the 
postoperative setting s/p endovascular repair of a 5.0 cm 
infrarenal abdominal aortic aneurysm.  You were monitored by a 
multidisciplinary team and treated non-surgically.  A CTA of the 
abdomen and pelvis revealed no concerns with your endo-stent, 
which was without endoleak, hematoma, or pseudoaneurysm.  Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery.

Division of Vascular and Endovascular Surgery - Discharge 
Instructions

MEDICATIONS
•Continue Aspirin daily. 
•       Continue Pravastatin.
•It is very important that you never stop taking aspirin for 
even for a short while - unless the surgeon who repaired your 
aneurysm tells you it is okay to stop.   Do not stop taking 
them, even if another doctor or nurse tells you to, without 
getting an okay from the surgeon who first prescribed them. 
•You will be given prescriptions for any new medication started 
during your hospital stay.
okay to take it. 

PAIN MANAGEMENT Recommendations:
• Ibuprofen 400-600 mg TID PRN {OR} topical diclofenac gel to be 
applied to affected areas BID PRN. 
• Lidocaine 5% Patch 1 PTCH TD QPM 
• TraMADol 25 mg PO Q6H:PRN pain 
• Acetaminophen 650 mg PO/NG TID

ACTIVITY
•It is normal to feel weak and tired for six-eight weeks 
post-operatively s/p EVAR. This should get better day by day.   
You may want to have help around the house during this time.
•We encourage you to walk regularly. Walking, especially 
outdoors in good weather is the best exercise for circulation.  
Walk short distances at first, even in the house, then do a 
little more each day.
•It is okay to climb stairs.  You may need to climb them slowly 
and pause after every few steps. 

DIET
•It is normal to have a decreased appetite.  Your appetite will 
return over time.
•Follow a well balance, heart-healthy diet, with moderate 
restriction of salt and fat. 
•Eat small, frequent meals with nutritious food options (high 
fiber, lean meats, fruits, and vegetables) to maintain your 
strength and to help with wound healing.

BOWEL AND BLADDER FUNCTION
•You should be able to pass urine without difficulty.  Call you 
doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine. 
•You may experience some constipation after surgery because of 
pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relief 
constipation, you may talk a mild laxative.   Please take to 
your pharmacist for advice about what to take. 
   
 
Followup Instructions:
___